Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Mechanical Fall
Right comminuted occipital condyle fracture
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  ___ year old female with 
hyperlipidemia who was transferred to ___ after sustaining a 
mechanical fall down 10 stairs, found to have right comminuted 
occipital condyle fracture on imaging.

Patient was in her usual state of healthy and tripped, resulting 
in a fall down 10 stairs with head strike without LOC. She 
presented to OSH, where CT head and spine revealed right 
comminuted occipital condyle fracture without intracranial 
hemorrhage. She was transferred to ___ for further management.

In the ED, patient's vitals were notable for labile BPs ranging 
___. Patient was afebrile and satting well on room 
air. Labs were notable for WBC 12.5 (88.5% neutrophils) and UA 
with >182 RBC.

Spine and trauma surgery were consulted, who recommended ___ J 
collar at all times and follow up in ___ clinic in 2 
weeks. ___ evaluation of the patient was limited by hypertension 
(216/100) and poor patient safety awareness. They recommended 
discharge to rehab.

During ED observation, patient was hypertensive and developed 
vomiting. She was given 5mg PO amlodipine 1256 with some initial 
though nonsustained response in her BP. She was given another 
5mg PO amlodipine at 1813 when her BP rose again, this time 
asymptomatically. At time of transfer from ED to medicine floor, 
patient's BP had been 165/79 and 167/83 over the course of 2.5 
hours. ED was concerned about discharging patient with recent 
falls and labile blood pressures home without adequate 
monitoring.

Upon arrival to the floor, the patient confirms the above 
history, though is notably a poor historian. She states she was 
climbing up the stairs with laundry when she got to the top and 
tried to make a turn. She then fell backwards down the stairs. 
She denies preceding lightheadedness, dizziness, chest pain, and 
shortness of breath. 

 
Past Medical History:
Hyperlipidemia
?Melanoma resection with lymph node biopsy c/b chronic right 
lower extremity lymphedema (per patient report, records not 
available)
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION EXAM:
VITALS:  162 / 94   99   18   96 ra 
General: Alert, no acute distress  
HEENT: Bandage over left eye. Ecchymosis surrounding left eye. 
Abrasion over right eye. ___ J collar in place. Sclerae 
anicteric, MMM, oropharynx clear, EOMI, PERRL. 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused. Significant RLE edema that patient 
reports is chronic after surgery for a malignant mole. 
Tenderness to palpation of the tibia just proximal to the ankle.
Neuro: CNII-XII intact, moving all 4 extremities with purpose.

DISCHARGE EXAM:
Vitals: 24 HR Data (last updated ___ @ 1355)
    Temp: 99.0 (Tm 99.1), BP: 156/73 (130-156/73-82), HR: 94 
(85-107), RR: 18 (___), O2 sat: 95% (95-98), O2 delivery: RA 
HEENT: Well-healing laceration over left eye. Ecchymosis beneath 
both eyes. Abrasion over right eye. ___ J collar in place. 
Sclerae anicteric, MMM, oropharynx clear
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused. Significant RLE edema, reportedly 
chronic following melanoma resection with lymph node biopsy. 
Tenderness to palpation of the tibia just proximal to the ankle.
Neuro: alert, oriented only to self, conversant but response 
time slow. Cannot follow commands. Moving all extremities, no 
gross facial asymmetries. PERRL. EOMI.

 
Pertinent Results:
ADMISSION LABS:
___ 07:44AM BLOOD WBC-7.7 RBC-4.79 Hgb-13.6 Hct-42.9 MCV-90 
MCH-28.4 MCHC-31.7* RDW-12.9 RDWSD-42.6 Plt ___
___ 03:22PM BLOOD WBC-12.5* RBC-4.80 Hgb-13.7 Hct-43.4 
MCV-90 MCH-28.5 MCHC-31.6* RDW-13.1 RDWSD-43.4 Plt ___
___ 03:22PM BLOOD Neuts-88.5* Lymphs-5.0* Monos-5.5 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-11.08* AbsLymp-0.63* 
AbsMono-0.69 AbsEos-0.01* AbsBaso-0.04
___ 07:44AM BLOOD ___ PTT-26.8 ___
___ 07:44AM BLOOD Glucose-106* UreaN-17 Creat-0.9 Na-136 
K-4.5 Cl-100 HCO3-24 AnGap-12
___ 07:44AM BLOOD Calcium-10.3 Phos-2.9 Mg-2.2

DISCHARGE LABS:
___ 07:23AM BLOOD WBC-10.0 RBC-4.54 Hgb-13.0 Hct-41.0 
MCV-90 MCH-28.6 MCHC-31.7* RDW-13.5 RDWSD-44.4 Plt ___
___ 07:23AM BLOOD Glucose-94 UreaN-25* Creat-0.9 Na-141 
K-4.2 Cl-104 HCO3-26 AnGap-11
___ 07:23AM BLOOD Calcium-10.4* Phos-2.7 Mg-2.2
___ 08:55AM BLOOD PTH-124*
___ 07:40AM BLOOD 25VitD-43

MICRO:
__________________________________________________________
___ 1:30 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 12:35 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 12:33 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    >100,000 CFU/mL. 
__________________________________________________________
___ 12:01 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING & STUDIES:

___ Imaging CT HEAD:
Non-displaced RIGHT occipital condyle fracture without extension 
to skull base. No other fractures or dislocations. 

___ Imaging CT TORSO (CHEST, ABD & PELVIS)
___ Imaging CT L-SPINE
___ Imaging CT T-SPINE
From outside facility, reports not available but reportedly 
unremarkable.

___ Imaging TIB/FIB (AP & LAT) LEFT:
No acute bony injury seen.

EKG ___
Normal sinus rhythm
Normal ECG
When compared with ECG of ___ 15:26, No significant 
change was found

CXR ___ 
Lungs are low volume with moderate cardiomegaly.  There is a 
small left 
pleural effusion.  No pneumothorax is seen. 
  

 
Brief Hospital Course:
TRANSITIONAL ISSUES:
==========================
FOR REHAB:
[] Discharged on TMP/SMX x 5 days for possible UTI (last day 
___
[] Please monitor for urinary retention and straight cath as 
needed.
[] Would continue standing acetaminophen and aggressive bowel 
regimen.

FOR PCP:
[] Consider MOCA and neurocognitive testing if mental status 
does not improve after resolution of acute illness.
[] Started amlodipine 5mg this hospitalization. Monitor BP and 
titrate as needed. 
[] Aspirin held in setting of fall and questionable 
risk/benefit, would readdress at next PCP ___.
[] Had microscopic hematuria in setting of foley placement and 
possible UTI. Would repeat as outpatient to ensure resolved. 
Could consider further workup if not.
[] Noted to have mild hypercalcemia and elevated PTH with normal 
VitD level, consistent with primary hyperparathyroidism. 
Consider repeat testing and evaluation if symptomatic.

Health Care Proxy: VERIFIED ON: ___ 
 Proxy name: ___   
 Relationship: son  Phone: ___  
 Date on form: ___  Filed on date: ___ 
 Proxy form in chart?: ___  
 Pt's daughter, ___, is alternate: ___  

BRIEF SUMMARY:
=================
___ yo woman with no major medical problems, admitted following 
mechanical fall down 10 stairs resulting in right comminuted 
occipital condyle fracture, managed non-operatively. Course 
complicated by asymptomatic hypertension, delirium, and possible 
UTI. Discharged to acute rehab.

ACUTE ISSUES:
=================
# Mechanical fall
# Occipital condyle fracture
Right comminuted occipital condyle fracture sustained during 
mechanical fall, initially seen at ___ with no 
other fracture or acute injury on CT Head, Torso, T-Spine, 
L-Spine, and X-ray L tib/fib. Transferred to ___ on ___ 
for evaluation by trauma surgery and spine surgery. 
Non-operative management plan with full-time ___ J collar in 
place until neurosurgery follow-up on ___ (Dr. ___. 
Pain well controlled with standing acetaminophen. Discharged to 
rehab.

# Hypertension
BP in the ED was markedly elevated as high as 210/102. Patient 
not on any antihypertensives at home and per PCP's office, has 
been 130-160s/70s-80s over four office visits this past year. BP 
remained persistently elevated to 170s-180s despite pain 
control. Started on amlodipine 5mg daily.

# Toxic-metabolic encephalopathy
Developed waxing/waning confusion and inattention consistent 
with delirium. Triggers included possible UTI (see below), 
traumatic injury, pain, constipation, hospitalization. CT head 
in ED was negative and patient had no focal deficits to suggest 
ICH nor seizure-type symptoms. 

# Leukocytosis
# Possible UTI
Leukocytosis resolved without intervention, likely reactive to 
trauma and constipation. Initial infectious workup was negative 
including UA without pyruia so antibiotics were initially 
deferred. However, urine culture returned with >100,000 CFU on 
coagulase negative staph so patient was started on TMP/SMX on 
discharge in case contributing to ongoing delirium.

# Intermittent urinary retention
Likely due to constipation and immobility, required intermittent 
straight cath.

# Stool impaction
Required manual disimpaction. Discharged on aggressive bowel 
regimen.

STABLE/CHRONIC ISSUES
=========================
# Primary hyperparathyroidism
Noted to have mild hypercalcemia and elevated PTH with normal 
VitD level, consistent with primary hyperparathyroidism. 
Consider repeat testing and evaluation if symptomatic. Continue 
home vitamin D 1000 units daily.

# Microscopic hematuria:
Likely due to foley trauma and possible UTI. Would repeat as 
outpatient to ensure resolution. If persistent, could consider 
cystoscopy given previous smoking history. 

# Primary ASCVD prevention:
- Continued home atorvastatin 20mg daily and fish oil
- Held home aspirin given questionable risk/benefit in setting 
of fall and advanced age

# B12 deficiency
Continue home supplements.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Aspirin 81 mg PO DAILY 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Bisacodyl 10 mg PO/PR DAILY  
4.  Polyethylene Glycol 17 g PO DAILY  
5.  Senna 17.2 mg PO BID  
6.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 5 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tab-cap by 
mouth every twelve (12) hours Disp #*10 Tablet Refills:*0 
7.  Atorvastatin 20 mg PO QPM  
8.  Cyanocobalamin 1000 mcg PO DAILY  
9.  Fish Oil (Omega 3) 1000 mg PO DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  
11. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until you speak with your primary care 
doctor.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Mechanical fall
Right comminuted occipital condyle fracture
Hypertensive urgency
Toxic-metabolic encephalopathy
Possible urinary tract infection
Stool impaction

SECONDARY DIAGNOSES
Primary hyperparathyroidism
Microscopic hematuria
Primary ASCVD prevention
B12 deficiency
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane). Orthostatic (170-->140 with transfer from bed to 
chair). Balance deficits.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?
- You had a fall down a flight of stairs and broke a bone in the 
back of your skull

WHAT HAPPENED TO ME IN THE HOSPITAL?
- You were seen by the surgeons in the emergency room who 
decided you did not need surgery
- You were given a brace to wear around your neck
- We gave you medications to treat your pain and blood pressure

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.
- Wear your brace at all times day and night until you see the 
neurosurgeons in about two weeks.

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___